US06900215B2
4-(5-Bromo-2-fluorophenyl)-3-fluoropyridine was reacted with bis(pinacolato)diboron by the method of Example 1 to give 4-[2-fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]-3-fluoropyridine as a buff-coloured solid: m/z (ES+) 235 (M++H).

reactant | 4-(5-Bromo-2-fluorophenyl)-3-fluoropyridine | BrC=1C=CC(=C(C1)C1=C(C=NC=C1)F)F | C11H6BrF2N
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | 4-[2-fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]-3-fluoropyridine | FC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=C(C=NC=C1)F | C17H18BF2NO2
